OP_2ND_3RD_POLES.CIR
*

* STEP INPUT
VS	1	0	AC	1	PWL(0US 0V   0.1US 1V   10US 1V)

* AC SOURCE
*VS 1 0 dc 0 sin(0V 1V 1e4Hz 0 0)


* NON INVERTING AMP
Rf2	0	2	100
Rf1	2	3	2.045e6
XOP1	1 2     3       OP_TL062
*
RL	3	0	10k
CL	3	0	1pF

* OP AMP MODEL
*
* Device Pins      In+ In- Vout
.SUBCKT op_tl062    1   2   82
*
* INPUT R
RIN   1   2   1e9
*
*  AMPLIFIER STAGE: GAIN, POLE, SLEW
*   Aol=10000, fu=1000000 Hz
G1   0    10  VALUE = { 1e-1 * V(1,2)  }
R1   10   0   1e6
C1   10   0   1.59159e-12
*
* 2ND POLE 
G2   0 20   10 0  1e-6
R2   20       0     1e6
C2   20       0     5.03e-13
*
* 3RD POLE 
G3   0 30   20 0 1e-6
R3   30       0     1e6
C3   30       0     1.59e-13
*
* OUTPUT STAGE
EBUFFER 80 0  30  0    1
ROUT 80      82        100
.ENDS
*
* ANALYSIS *************************************
.TRAN 	0.05US  25e0US 
*.AC 	DEC 	20 1 100MEG



* VIEW RESULTS
.control
run
*plot V(3)



wrdata ee18btech11016_sim.dat V(3)
.endc 

.end
